US07358073B2
5.1 Preparation of (1R, 4S)-N-BOC-1-amino-4-(hydroxy-methyl)-2-cyclopentene (BOC=tert-butoxycarbonyl)
75 g of a solution of (1R, 4S)-1-amino-4-hydroxy-methyl-2-cyclopentene were adjusted to pH 8 using 30% strength NaOH, and 6 g of NaHCO3 were added to the mixture. The mixture was heated to 52° C. Whilst stirring the mixture thoroughly, 60 ml of diisopropyl ether were added thereto and then, over the course of 2 h, a solution of 11.12 g of BOC anhydride in 18.2 ml of diisopropyl ether were metered in. The mixture was filtered over Celite, and the phases were separated. The aqueous phase was extracted with 65 ml of diisopropyl ether. The combined organic phases were washed with 45 ml of water, then evaporated to 37.5 g and heated to 50° C. 31 ml of n-hexane were added dropwise to the solution. After the mixture had been slowly cooled to 0° C. (2 h), the title compound was filtered, washed with 12 ml of n-hexane/diisopropyl ether 1/1 and dried. This gave 6.75 g of product. The yield was 71%.

reactant | (1R, 4S)-1-amino-4-hydroxy-methyl-2-cyclopentene | N[C@]1(C=C[C@H](C1)O)C | C6H11NO
reactant | NaOH | [OH-].[Na+]
reactant | NaHCO3 | 6 g | C(=O)(O)[O-].[Na+]
reactant | BOC anhydride | 11.12 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | diisopropyl ether | 18.2 ml | C(C)(C)OC(C)C | C6H14O
solvent | diisopropyl ether | 60 ml | C(C)(C)OC(C)C | C6H14O
product | (1R, 4S)-N-BOC-1-amino-4-(hydroxy-methyl)-2-cyclopentene | yield was 71% | C(=O)(OC(C)(C)C)N[C@H]1C=C[C@H](C1)CO | C11H19NO3
